US04398014
Preparation of Dimethyl-p-toluenesulphonylmethylsulphoxonium hexafluorophosphate
Dimethylsulphoxonium methylide was prepared by the method described by Corey and Chaykovsky, loc. cit., from trimethylsulphoxonium chloride (25.7 parts) by treatment with sodium hydride (6.7 parts) in dry tetrahydrofuran. This ylide was converted into dimethylsulphoxonium p-toluenesulphonylmethylide by reaction with p-toluenesulphonyl fluoride (17.4 parts) using the method described by Truce and Madding, loc. cit. The toluenesulphonylmethylide was neutralised by the addition of 65% aqueous hexafluorophosphoric acid (49.5 parts) over 15 minutes, followed by concentration of the solution. The white solid which precipitated was filtered off, washed with water, and dried under vacuum to give 20 parts of the desired product (VI, R=p--CH3C6H4, R6 =H, R7 =R8 =CH3, q=t=1, Zt- =PF6-), mpt. 174°-5° C.; NMR (acetone -d6) 2.50 (s-3H), 4.23 (s-6H), 6.20 (s-2H), 7.5-8.2 (m-4H); IR (KBr disc) 3020, 3000, 2930, 2920, 1590, 1400, 1330, 1300, 1250, 1160, 1030, 940, 840, 750 cm-1 ; UV (ethanol) λmax 255 nm (data for product recrystallised from methanol).

reactant | trimethylsulphoxonium chloride | [Cl-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulphoxonium | C[SH+](=O)C
reactant | p-toluenesulphonyl fluoride | C1(=CC=C(C=C1)S(=O)(=O)F)C | C7H7FO2S
reactant | hexafluorophosphoric acid | F[P-](F)(F)(F)(F)F.[H+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Dimethyl-p-toluenesulphonylmethylsulphoxonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C[S+](=O)(CS(=O)(=O)C1=CC=C(C=C1)C)C | InChI=1S/C10H15O3S2.F6P/c1-9-4-6-10(7-5-9)15(12,13)8-14(2,3)11;1-7(2,3,4,5)6/h4-7H,8H2,1-3H3;/q+1;-1
